US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluorophenyl}-N′-(4-phenylbenzoyl)thiourea
Toluene (20 ml) and thionyl chloride (1 ml) were added to commercially available 4-phenylbenzoic acid (80 mg), and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and 4-phenyl-1-benzenecarbonyl isothiocyanate was prepared using the resultant 4-phenyl-1-benzenecarbonyl chloride as a starting compound according to the description of the literature. 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluoroaniline (50 mg) was dissolved in toluene (5 ml) and ethanol (1 ml) to prepare a solution. A solution of 4-phenyl-1-benzenecarbonyl isothiocyanate in ethanol (1 ml) was then added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (76 mg, yield 92%). Mass spectrometry value (ESI-MS, m/z): 554 (M++1)

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-phenylbenzoic acid | 80 mg | C1(=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O2
reactant | 4-phenyl-1-benzenecarbonyl chloride | C1(=CC=CC=C1)C1=CC=C(C=C1)C(=O)Cl | C13H9ClO
reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluoroaniline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(N)C=C1)F | C17H15FN2O3
reactant | 4-phenyl-1-benzenecarbonyl isothiocyanate | C1(=CC=CC=C1)C1=CC=C(C=C1)C(=O)N=C=S | C14H9NOS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluorophenyl}-N′-(4-phenylbenzoyl)thiourea | 76 mg, yield 92% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=S)NC(C1=CC=C(C=C1)C1=CC=CC=C1)=O)F | C31H24FN3O4S
